US04126653
In a third example of the invention, a mixture of silicon nitride powder predominantly in the α-phase together with 1% by weight of magnesium oxide powder in which the particle sizes of both of the powders was less than 8 microns, was prepared by wet ball milling the two materials for 30 minutes in a 16% by weight solution of cellulose nitrate in propanol, the ratio of solid to liquid then being 1:1. The excess cellulose nitrate was then filtered off so that a clay-like mixture formed comprising approximately 68.7% silicon nitride/magnesium oxide mixture, 26.3% propanol, and 5% cellulose nitrate all by weight. The excess solution of cellulose nitrate in propanol removed by the filtering was of course re-cycled to the wet ball milling stage. The clay-like mixture was found to be suitable for extrusion into a suitably shaped die and, after calculation of the size of the die required to produce the final component, a preform of substantially uniform density less than that of the required component in the direction of subsequent hot pressing was produced by extrusion into the die, whereafter the preform was hot pressed as in the previous examples.

reactant | silicon nitride | N12[Si]34N5[Si]16N3[Si]25N46 | N4Si3
reactant | magnesium oxide | [O-2].[Mg+2]
solvent | propanol | C(CC)O | C3H8O
product | silicon nitride magnesium oxide | approximately 68.7% | N12[Si]34N5[Si]16N3[Si]25N46.[O-2].[Mg+2] | InChI=1S/Mg.N4Si3.O/c;1-5-2-6(1)3(5)7(1,2)4(5)6;/q+2;;-2
